US04208426
(1) 7-Hydroxy-2,2,4,5,8-pentamethyl chroman
13.8 g. of 2,5-dimethyl resorcinol were dissolved in a mixed solution comprising 70 ml of isopropyl ether and 5 ml of concentrated sulfuric acid. Then, 10 g. of 4-methyl-3-pentene-2-ol were added dropwise to the solution at the temperature of about 60° C. for about 30 minutes. The resulting solution was cooled, and washed with water, with 1 N sodium hydroxide solution, and again with water and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from ether/n-hexane, to obtain 13.2 g. (yield: 60%) of the subject compound. Melting point: 88°-89° C.

reactant | 2,5-dimethyl resorcinol | CC1=C(O)C=C(C=C1O)C | C8H10O2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-methyl-3-pentene-2-ol | CC(=CC(C)O)C | C6H12O
solvent | isopropyl ether | 70 ml | C(C)(C)OC(C)C | C6H14O
product | 7-Hydroxy-2,2,4,5,8-pentamethyl chroman | yield: 60% | OC1=CC(=C2C(CC(OC2=C1C)(C)C)C)C | C14H20O2
